US06399641B1
{5-[(9H-Xanthene-9-carbonyl)-amino]-tetrazol-2-yl}-acetic acid methyl ester
The title compound, white solid, m.p. 243-244° and MS: (neg. ions): m/e=364.0 (M+−H) was prepared in accordance with the general method of example 1 from (5-amino-tetrazol-2-yl)-acetic acid methyl ester and 9H-xanthene-9-carbonyl chloride.

reactant | (5-amino-tetrazol-2-yl)-acetic acid methyl ester | COC(CN1N=C(N=N1)N)=O | C4H7N5O2
reactant | 9H-xanthene-9-carbonyl chloride | C1=CC=CC=2OC3=CC=CC=C3C(C12)C(=O)Cl | C14H9ClO2
product | {5-[(9H-Xanthene-9-carbonyl)-amino]-tetrazol-2-yl}-acetic acid methyl ester | COC(CN1N=C(N=N1)NC(=O)C1C2=CC=CC=C2OC=2C=CC=CC12)=O | C18H15N5O4
